US04125612
1-Acetyl-4[1-(4'-chloro[1,1']biphenyl-4-yl)ethyl]piperazine
With constant stirring, reflux a solution of 25.1g of 4'-chloro-4-(1-chloroethyl)[1,1']biphenyl, 51g of 1-acetyl piperazine and 400 ml of anhydrous benzene for 24 hours. Add 200 ml of water to the reaction mixture, separate the organic phase, water-wash (5 times with 200 mls of water). Dry (over sodium sulfate), concentrate (in vacuo) and recrystallize the resulting residue from ethyl acetate to obtain the desired product.

reactant | 4'-chloro-4-(1-chloroethyl)[1,1']biphenyl | 25.1g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)Cl | C14H12Cl2
reactant | 1-acetyl piperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | benzene | 400 ml | C1=CC=CC=C1 | C6H6
solvent | water | 200 ml | O | H2O
product | 1-Acetyl-4[1-(4'-chloro[1,1']biphenyl-4-yl)ethyl]piperazine | C(C)(=O)N1CCN(CC1)C(C)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C20H23ClN2O
